US04938794
Ethyl 2-[(4-trifluoromethoxyphenyl)-1,1-diazanediyl]-(2-fluoro-6-difluoromethoxybenzoyl)acetate (530 mg), and potassium carbonate (157 mg) were added to N,N-dimethylformamide (10 ml), and the resultant mixture was heated at 100° C. for 1 hour. The mixture was cooled to room temperature, and was poured into ice-water (about 50 ml). After allowing it to stand for 2 hours, the precipitated crystals were collected by filtration. The crystals were washed with water (5 ml) two times and were dried under reduced pressure to give 478 mg of desired ethyl 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-difluoromethoxycinnoline-3-carboxylate (yield: 94.3%). m.p., 145° C.

reactant | Ethyl 2-[(4-trifluoromethoxyphenyl)-1,1-diazanediyl]-(2-fluoro-6-difluoromethoxybenzoyl)acetate | 530 mg | FC(OC1=CC=C(C=C1)NN=C(C(=O)OCC)C(C1=C(C=CC=C1OC(F)F)F)=O)(F)F | C19H14F6N2O5
reactant | potassium carbonate | 157 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-difluoromethoxycinnoline-3-carboxylate | 478 mg, yield: 94.3% | FC(OC1=CC=C(C=C1)N1N=C(C(C2=C(C=CC=C12)OC(F)F)=O)C(=O)OCC)(F)F | C19H13F5N2O5
